US08383652B2
40 g (145 mmol) of ethyl 6-iodonicotinate diluted in 400 mL of ethanol are added dropwise to a solution at 0° C. of 27.3 g (−722 mmol) of sodium borohydride in 270 mL of ethanol. For the addition, the temperature of the reaction mixture is maintained from 2 and 6° C., and then at 0° C. for 1 hour and at room temperature for 20 hours. The reaction is worked up by addition of 200 mL of water, and a white precipitate forms. The reaction mixture is filtered off; the filtrate is evaporated under vacuum to give the product in the form of a yellow paste. The product is placed in 300 mL of diethyl ether and then filtered to give 23.2 g (68%) of (6-iodopyrid-3-yl)methanol in the form of a pale yellow solid.

reactant | ethyl 6-iodonicotinate | 145 mmol, 40 g | IC1=NC=C(C(=O)OCC)C=C1 | C8H8INO2
reactant | sodium borohydride | −722 mmol, 27.3 g | [BH4-].[Na+]
reactant | water | 200 mL | O | H2O
solvent | ethanol | 400 mL | C(C)O | C2H6O
solvent | ethanol | 270 mL | C(C)O | C2H6O
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
product | (6-iodopyrid-3-yl)methanol | 23.2 g, 68% | IC1=CC=C(C=N1)CO | C6H6INO
